### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Matrix): num and denom of a rational matrix

### PR DESCRIPTION
**Pull request by loefflerd**
Write a rational matrix as an integer matrix `Matrix.num` divided by a nonzero natural `Matrix.den`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/Integer.lean [hunk 1]
```diff
@@ -0,0 +1,80 @@
...
+### Casts
+
+These results are useful shortcuts because the canonical casting maps out of `ℕ`, `ℤ`, and `ℚ` to
+suitable types are bare functions, not ring homs, so we cannot apply `Matrix.map_mul` directly to
+them.
+-/
+
+lemma map_mul_natCast {α : Type*} [NonAssocSemiring α] (A B : Matrix n n ℕ) :
+    map (A * B) ((↑) : ℕ → α) = map A (↑) * map B (↑) := by
+  simpa using Matrix.map_mul (f := Nat.castRingHom α)
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Integer.lean:37]:
```suggestion
    map (A * B) ((↑) : ℕ → α) = map A (↑) * map B (↑) :=
  Matrix.map_mul (f := Nat.castRingHom α)
```
etc

File: Mathlib/LinearAlgebra/Matrix/Integer.lean [hunk 2]
```diff
@@ -0,0 +1,80 @@
...
+### Denominator of a rational matrix
+-/
+
+/-- The denominator of a matrix of rationals (as a `Nat`, defined as the LCM of the denominators of
+the entries). -/
+protected def den (A : Matrix m n ℚ) : ℕ := Finset.univ.lcm (fun P : m × n ↦ (A P.1 P.2).den)
+
+/-- The numerator of a matrix of rationals (a matrix of integers, defined so that
+`A.num / A.den = A`). -/
+protected def num (A : Matrix m n ℚ) : Matrix m n ℤ := fun i j ↦ (A i j * A.den).num
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/Integer.lean:57]: Though I'd recommend defining it as `((A.den : ℚ) • A).map Rat.num`

**Review by eric-wieser — COMMENTED** [review]
@YaelDillies, do you think we should worry about duplicating this for NNRat?

File: Mathlib/LinearAlgebra/Matrix/Integer.lean [hunk 3]
```diff
@@ -0,0 +1,81 @@
...
+  rw [Matrix.num, map_apply, smul_apply, smul_eq_mul, mul_comm,
+    eq_div_iff <| Nat.cast_ne_zero.mpr A.den_ne_zero, hk, Nat.cast_mul, ← mul_assoc,
+    Rat.mul_den_eq_num, ← Int.cast_natCast k, ← Int.cast_mul, Rat.num_intCast]
+
+lemma inv_denom_smul_num (A : Matrix m n ℚ) :
+    A = (A.den⁻¹ : ℚ) • A.num.map (↑) := by
+  ext i j
+  simp only [Matrix.num_div_den (A := A), smul_apply, map_apply, smul_eq_mul, div_eq_inv_mul]
+
+lemma den_map_intCast (A : Matrix m n ℤ) : (A.map (↑)).den = 1 := by
```
[the remark this answers is not in the document]
Comment (loefflerd) [reply Mathlib/LinearAlgebra/Matrix/Integer.lean:78]: I added the analogous statement for `natCast`. For `ratCast` I couldn't quite work out what kind of statement you had in mind.

[the remark this answers is not in the document]
Comment (loefflerd) [reply Mathlib/LinearAlgebra/Matrix/Integer.lean:79]: I've also added lemmas for the numerator of `A.map (↑)`, and flagged all these last few lemmas as `@[simp]` since the RHS is unambiguously simpler than the LHS.

**Comment by YaelDillies** [comment]
Isn't the answer here that everything should be generalised to `Submonoid.LocalizationMap`?

I personally find working with it quite difficult at the moment, but I am trying to improve the API and I would rather us not shy away from making the necessary changes for it to become useful.

Eg maybe we should develop the API first for `Submonoid.LocalizationMap`, then copy it into another API that works around a *canonical* localization map (eg mayhe with a typeclass `Submonoid.IsLocalizationMap M G (f : M -> G) : Prop`.

A first PR in that direction is #22655 (which I notice is failing CI, I'll try fixing that today evening).

**Comment by loefflerd** [comment]
> Isn't the answer here that everything should be generalised to `Submonoid.LocalizationMap`?

Elements in an arbitrary localization of rings (or semirings) don't have a well-defined denominator. If `R` is a domain and `S` a submonoid, then for `x ∈ S⁻¹R`, the "denominator ideal" `{y : R : x * y ∈ R}` is well-defined and non-zero; but there is no reason for it to be principal. Even if it's principal, its generator is only defined up to units, and there is no best choice. In the case of `ℤ ⊆ ℚ`, all ideals are principal and we get around the unit indeterminacy by choosing the denominator to lie in `ℕ`, not just in `ℤ`.

Presumably for these reasons, nobody has seen fit to replace `Rat.num` and `Rat.den` with more general localization machinery, because they have specific properties which do not generalize to arbitrary localizations. I think the same applies here: it might well make sense, at some point in the future, to define denominator ideals for matrices over general localizations but I think this would have to coexist with, rather than replace, the simpler and more concrete special case developed here.

**Comment by YaelDillies** [comment]
> for these reasons, nobody has seen fit to replace `Rat.num` and `Rat.den` with more general localization machinery

This isn't out of abstractness considerations, but rather because `Rat` is a foundational type that we need to feed into the definition of `Field`.

> If `R` is a domain and `S` a submonoid, then for `x ∈ S⁻¹R`, the "denominator ideal" `{y : R | x * y ∈ R}` is well-defined and non-zero; but there is no reason for it to be principal. Even if it's principal, its generator is only defined up to units, and there is no best choice.

Can't you first develop a theory of denominator ideals, then specialise it to denominators? And in fact a "best choice" exists when you assume [`NormalizedGCDMonoid`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/GCDMonoid/Basic.html#NormalizedGCDMonoid).

**Comment by loefflerd** [comment]
> Can't you first develop a theory of denominator ideals, then specialise it to denominators?

This would be a monumental amount of work and it would have precisely zero extra benefit for the application I have in mind. I'm not just playing about with matrices for fun here; these lemmas are an input for defining Hecke operators for modular forms – something quite a lot of people are interested in getting into Mathlib.

I am happy to put a "todo" note in the code "Consider generalizing this to arbitrary localizations"; and if you want to develop this theory yourself then go ahead with my blessing. But I do not think it is reasonable to require that it be done in this PR.

File: Mathlib/LinearAlgebra/Matrix/Integer.lean (hunk 3 above)
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/Integer.lean:79]: > For `ratCast` I couldn't quite work out what kind of statement you had in mind.

I think I was confused, indeed there is no statement to be made here.

File: Mathlib/LinearAlgebra/Matrix/Integer.lean [hunk 4]
```diff
@@ -0,0 +1,94 @@
...
+  simp [Matrix.num, Function.comp_def]
+
+@[simp]
+lemma den_map_natCast (A : Matrix m n ℕ) : (A.map (↑)).den = 1 := by
+  simp [← Nat.dvd_one, Matrix.den_dvd_iff]
+
+@[simp]
+lemma num_map_natCast (A : Matrix m n ℕ) : (A.map (↑)).num = A.map (↑) := by
+  simp [Matrix.num, Function.comp_def]
+
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Integer.lean:93]: Could you also add the lemmas `den_zero`, `den_one`, `den_natCast`, `den_ofNat`, `den_intCast`, `den_ratCast`, `den_neg`, and similarly for `num`?

Comment (loefflerd) [reply Mathlib/LinearAlgebra/Matrix/Integer.lean:106]: I don't think `den_ratCast` applies here since `Rat.cast` only applies to division rings (which matrices are not). I've implemented the rest.

File: Mathlib/LinearAlgebra/Matrix/Integer.lean [hunk 5]
```diff
@@ -91,4 +104,50 @@ lemma den_map_natCast (A : Matrix m n ℕ) : (A.map (↑)).den = 1 := by
...
+lemma den_natCast [DecidableEq m] (a : ℕ) : (a : Matrix m m ℚ).den = 1 := by
+  simpa [← diagonal_natCast] using den_map_natCast (a : Matrix m m ℕ)
+
+@[simp]
+lemma num_natCast [DecidableEq m] (a : ℕ) : (a : Matrix m m ℚ).num = a := by
+  simpa [← diagonal_natCast] using num_map_natCast (a : Matrix m m ℕ)
+
+@[simp]
+lemma den_ofNat [DecidableEq m] (a : ℕ) [a.AtLeastTwo] :
+    (OfNat.ofNat a : Matrix m m ℚ).den = 1 :=
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Integer.lean:121]:
```suggestion
    (ofNat(a) : Matrix m m ℚ).den = 1 :=
```
etc, as explained in the docstring for this notation

File: Mathlib/LinearAlgebra/Matrix/Integer.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/Integer.lean:106]: I thought we had a direct instance somewhere, but could easily be mistaken.

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/Integer.lean:106]: Also, it looks like you were too fast for my edit requesting `transpose`

Comment (loefflerd) [reply Mathlib/LinearAlgebra/Matrix/Integer.lean:112]: I dealt with `transpose`. As for `Rat.cast`, `#synth Coe ℚ  (Matrix (Fin 2) (Fin 2) ℚ)` and `#synth RatCast (Matrix (Fin 2) (Fin 2) ℚ) ` return nothing, even with all of Mathlib imported.

File: Mathlib/LinearAlgebra/Matrix/Integer.lean [hunk 6]
```diff
@@ -0,0 +1,163 @@
...
+protected def den (A : Matrix m n ℚ) : ℕ := Finset.univ.lcm (fun P : m × n ↦ (A P.1 P.2).den)
+
+/-- The numerator of a matrix of rationals (a matrix of integers, defined so that
+`A.num / A.den = A`). -/
+protected def num (A : Matrix m n ℚ) : Matrix m n ℤ := ((A.den : ℚ) • A).map Rat.num
+
+lemma den_ne_zero (A : Matrix m n ℚ) : A.den ≠ 0 := by
+  simp [Matrix.den, Finset.lcm_eq_zero_iff]
+
+lemma den_dvd_iff {A : Matrix m n ℚ} {r : ℕ} :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Integer.lean:66]: One more trivial theorem to add would be `num_eq_zero_iff`

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks! I think the TODO about localizations is enough for now.
